US06703425B2
Preparation of 2-[5-(2-Aminoethyl)naphthyl]ethylamine
Scheme IVa, step B: (Phenylmethoxy)-N-[2-(5-{2-[(phenylmethoxy)carbonylamino]ethyl}naphthyl)ethyl]carboxamide (0.6 g, 1.24 mmol) and 10% palladium on carbon (0.5 g, 83 mole %) were combined and hydrogenation was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, 2-[5-(2-aminoethyl)naphthyl]ethylamine, (0.12 g, 44%) as a colorless oil. Electron spray M.S. 215 (M++H).

reactant | (Phenylmethoxy)-N-[2-(5-{2-[(phenylmethoxy)carbonylamino]ethyl}naphthyl)ethyl]carboxamide | 1.24 mmol, 0.6 g | C1(=CC=CC=C1)COC(=O)NCCC1=CC=CC2=C(C=CC=C12)CCNC(=O)OCC1=CC=CC=C1 | C30H30N2O4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 2-[5-(2-aminoethyl)naphthyl]ethylamine | 0.12 g, 44% | NCCC1=C2C=CC=C(C2=CC=C1)CCN | C14H18N2
